### PR TITLE
[Merged by Bors] - feat: infinite (preconnected, locally finite) graphs have nonempty ends

### PR DESCRIPTION
**Pull request by kmill**
Port/review of [mathlib#18410](https://github.com/leanprover-community/mathlib/pull/18410) directly to Mathlib4.

Co-authored-by: Rémi Bottinelli <remi.bottinelli@bluewin.ch>
Co-authored-by: Anand Rao <anand.rao.art@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Ends/Properties.lean [hunk 1]
```diff
@@ -22,13 +23,31 @@ variable {V : Type} (G : SimpleGraph V)
...
     rintro ⟨s, _⟩
     cases nonempty_fintype V
     obtain ⟨v, h⟩ := (s <| Opposite.op Finset.univ).nonempty
-    exact
-      Set.disjoint_iff.mp (s _).disjoint_right
-        ⟨by simp only [Opposite.unop_op, Finset.coe_univ, Set.mem_univ], h⟩⟩
+    exact Set.disjoint_iff.mp (s _).disjoint_right
+        ⟨by simp only [Opposite.unop_op, Finset.coe_univ, Set.mem_univ], h⟩
+
+/-- The `component_compl`s chosen by an end are all infinite. -/
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Ends/Properties.lean:34]:
```suggestion
/-- The `componentCompl`s chosen by an end are all infinite. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Ends/Properties.lean [hunk 2]
```diff
@@ -22,13 +23,31 @@ variable {V : Type} (G : SimpleGraph V)
...
+lemma end_componentCompl_infinite (e : G.end) (K : (Finset V)ᵒᵖ) :
+    ((e : (j : (Finset V)ᵒᵖ) → G.componentComplFunctor.obj j) K).supp.Infinite := by
+  refine (e.val K).infinite_iff_in_all_ranges.mpr (fun L h => ?_)
+  change Opposite.unop K ⊆ Opposite.unop (Opposite.op L) at h
+  exact ⟨e.val (Opposite.op L), (e.prop (CategoryTheory.opHomOfLE h))⟩
+
+instance compononentComplFunctor_nonempty_of_infinite [Infinite V] (K : (Finset V)ᵒᵖ) :
+    Nonempty (G.componentComplFunctor.obj K) := G.componentCompl_nonempty_of_infinite K.unop
+
+instance component_compl_functor_finite [LocallyFinite G] [Fact G.Preconnected]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Ends/Properties.lean:44]:
```suggestion
instance componentComplFunctor_finite [LocallyFinite G] [Fact G.Preconnected]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

**Comment by ocfnash** [comment]
bors merge
